US05925661
2,3-Dimethyl-4-hydrazinobenzoic acid hydrochloride
A solution of 1.87 g of NaNO2 in 7 ml of water is added slowly to a solution, cooled to -5° C., of 4.5 g of 4-amino-2,3-dimethylbenzoic acid in 135 ml of concentrated HCl. After 2 hours of stirring at -5° C., a solution of 25 g of SnCl2.2H2O in 250 ml of concentrated HCl is added at -10° C., and the mixture is stirred for 30 minutes at -5° C. and then 2 hours at RT. The mixture is filtered, and the precipitate is washed with 5 ml of concentrated HCl and dried under a stream of dry nitrogen and then under vacuum to obtain 5.5 g of expected product.

reactant | NaNO2 | 1.87 g | N(=O)[O-].[Na+]
reactant | 4-amino-2,3-dimethylbenzoic acid | 4.5 g | NC1=C(C(=C(C(=O)O)C=C1)C)C | C9H11NO2
reactant | SnCl2.2H2O | 25 g | O.O.Cl[Sn]Cl
solvent | water | 7 ml | O | H2O
solvent | HCl | 135 ml | Cl | ClH
solvent | HCl | 250 ml | Cl | ClH
product | 2,3-Dimethyl-4-hydrazinobenzoic acid hydrochloride | 5.5 g | Cl.CC1=C(C(=O)O)C=CC(=C1C)NN | InChI=1S/C9H12N2O2.ClH/c1-5-6(2)8(11-10)4-3-7(5)9(12)13;/h3-4,11H,10H2,1-2H3,(H,12,13);1H
